### ISSUE TITLE
simpa syntax doesn't accept trailing comma

### ISSUE THREAD

**Issue by YaelDillies** [leanprover/lean4#7383]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

`simp [lemma,]` works, but `simpa [lemma,]` doesn't work.

### Context

One often switches between `simp` and `simpa` and this syntax mismatch is an odd quirk.

### Steps to Reproduce

```
set_option linter.unusedSimpArgs false

-- all work

example : True := by dsimp [trivial,]
example : True := by dsimp? [trivial,]
example : True := by dsimp only [trivial,]
example : True := by dsimp? only [trivial,]

example : True := by simp [trivial,]
example : True := by simp? [trivial,]
example : True := by simp only [trivial,]
example : True := by simp? only [trivial,]

example : True := by simp_all [trivial,]
example : True := by simp_all only [trivial,]

-- all product
-- unexpected token ']'; expected '*', '-' or term

example : True := by simpa [trivial,]
example : True := by simpa only [trivial,]

example : True := by simpa [trivial,] using trivial
example : True := by simpa only [trivial,] using trivial
```

**Expected behavior:** All four examples succeed (with warnings for the last two).

**Actual behavior:** The last two examples suffer syntax errors.

### Versions

Lean 4.18.0-rc1
Target: x86_64-unknown-linux-gnu

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by b-mehta** [comment]
On top of this, `simp?` syntax also doesn't accept a trailing comma, which is undesirable for the same reasons.

```
example : True := by simp? [Nat.add_zero, ] -- unexpected token ']'; expected '*', '-' or term
```

**Comment by nomeata** [comment]
This is probably a very small change to fix, is it? If so, happy to merge such a change.

**Comment by YaelDillies** [comment]
I've opened #9804. Not sure if I should make tests or how/where to make them
